US06156782
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(5-trifluoromethylsulphenylthien-2-yl)pyrazole
To a stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(thien-2-yl)pyrazole (0.806 g) in dry dichloromethane (25 ml) at room temperature was added a solution of stannic chloride (500 μl) in dry dichloromethane (5 ml). To this was added 7.2 ml of a 50 mg/ml solution of trifluoromethylsulphenyl chloride in dichloromethane and the mixture was stirred for 48 hours after which it was poured onto a mixture of ice, water and dichloromethane. The aqueous layer was separated and washed with dichloromethane. The combined organic layers were washed with saturated aqueous sodium hydrogen carbonate solution, dried and evaporated. The residue was purified by column chromatography on silica gel (40 g) eluted with dichloromethane:hexane (1:1). Combination and evaporation of suitable fractions gave the title compound as a white solid, m.p. 162-3° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(thien-2-yl)pyrazole | 0.806 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C=1SC=CC1 | C15H7Cl2F3N4S
reactant | trifluoromethylsulphenyl chloride | FC(SCl)(F)F | CClF3S
reactant | water | O | H2O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(5-trifluoromethylsulphenylthien-2-yl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C=1SC(=CC1)SC(F)(F)F | C16H6Cl2F6N4S2
